US08859574B2
A mixture of N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)-5-(trifluoromethyl)pyrimidine-2,4-diamine (100 mg, 0.22 mmol), 2-(bromomethyl)-1,1-difluorocyclopropane (76.4 mg, 0.45 mmol) and triethylamine (60.6 μL, 0.42 mmol) in 1 mL of DMF was heated at 60° C. in a microwave reactor for 2 h. The crude product was purified by RP-HPLC to afford N2-(4-(1-((2,2-difluorocyclopropyl)methyl)piperidin-4-yl)-2-fluoro-5-methylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)-5-(trifluoromethyl)pyrimidine-2,4-diamine; ESMS m/z 540.2 (M+H+).

reactant | N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)-5-(trifluoromethyl)pyrimidine-2,4-diamine | 0.22 mmol, 100 mg | FC1=C(C=C(C(=C1)C1CCNCC1)C)NC1=NC=C(C(=N1)NC1=NNC(=C1)C)C(F)(F)F | C21H23F4N7
reactant | 2-(bromomethyl)-1,1-difluorocyclopropane | 0.45 mmol, 76.4 mg | BrCC1C(C1)(F)F | C4H5BrF2
reactant | triethylamine | 0.42 mmol, 60.6 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N2-(4-(1-((2,2-difluorocyclopropyl)methyl)piperidin-4-yl)-2-fluoro-5-methylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)-5-(trifluoromethyl)pyrimidine-2,4-diamine | FC1(C(C1)CN1CCC(CC1)C1=CC(=C(C=C1C)NC1=NC=C(C(=N1)NC1=NNC(=C1)C)C(F)(F)F)F)F | C25H27F6N7
